US08536183B2
(2S)-2-Methyl-1-[(5-methyl-3-pyridinyl)carbonyl]-4-{[4-(trifluoromethyl)phenyl]sulfonyl}piperazine
To a solution of (3S)-3-methyl-1-{[4-(trifluoromethyl)phenyl]sulfonyl}piperazine (Description 2) (100 mg, 0.324 mmol) in DMF (5 ml) was added HOBT.H2O (49.7 mg, 0.324 mmol), HBTU (123 mg, 0.324 mmol), 5-methyl-3-pyridinecarboxylic acid (44.5 mg, 0.324 mmol) and DIPEA (0.170 ml, 0.973 mmol) and the reaction mixture was stirred for 1 h at room temperature. The reaction mixture was evaporated in vacuo. The residue was dissolved in DCM (50 ml), transferred to a separating funnel and the solution was washed with aqueous NaHCO3 (5 ml), twice. The organic layer was dried with magnesium sulphate which was removed by filtration and the filtrate evaporated to dryness in vacuo. The residual oil was dissolved in 1:1 MeCN/DMSO (1.8 ml) and purified by MDAP in two batches. The fractions containing the desired product were combined and evaporated to dryness in vacuo to the title compound (95 mg).

reactant | (3S)-3-methyl-1-{[4-(trifluoromethyl)phenyl]sulfonyl}piperazine | 0.324 mmol, 100 mg | C[C@H]1CN(CCN1)S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F | C12H15F3N2O2S
reactant | HOBT | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | H2O | 0.324 mmol, 49.7 mg | O | H2O
reactant | HBTU | 0.324 mmol, 123 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 5-methyl-3-pyridinecarboxylic acid | 0.324 mmol, 44.5 mg | CC=1C=C(C=NC1)C(=O)O | C7H7NO2
reactant | DIPEA | 0.973 mmol, 0.170 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | (2S)-2-Methyl-1-[(5-methyl-3-pyridinyl)carbonyl]-4-{[4-(trifluoromethyl)phenyl]sulfonyl}piperazine | C[C@@H]1N(CCN(C1)S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C(=O)C=1C=NC=C(C1)C | C19H20F3N3O3S
